US07919628B2
2-Chloromethyl-5-phenyl-[1,3,4]oxadiazole was prepared similarly to 5-chloro-2-chloromethyl-benzothiazole using benzoic acid hydrazide as the reagent.

reactant | 5-chloro-2-chloromethyl-benzothiazole | ClC=1C=CC2=C(N=C(S2)CCl)C1 | C8H5Cl2NS
reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | 2-Chloromethyl-5-phenyl-[1,3,4]oxadiazole | ClCC=1OC(=NN1)C1=CC=CC=C1 | C9H7ClN2O
